US05866568
Isobutylchloroformate (4.79 ml) was added to a stirred solution of 2-amino-3-methoxy-5-methylpyrazine (5 g) and pyridine (2.91 ml) in dichloromethane (10 ml) at ambient temperature. After 90 minutes the reaction mixture was diluted with dichloromethane (10 ml) and washed with 2M hydrochloric acid (3×20 ml), water (20 ml) and saturated sodium chloride solution (20 ml) and then dried (MgSO4). Volatile material was removed by evaporation to give a solid which was recrystallised from hexane to give isobutyl N-(3-methoxy-5-methylpyrazin-2-yl)carbamate (6.5 g); 1H NMR (CDCl3): 1.0 (d, 6 H), 2.0 (m, 1 H), 2.4 (s, 3 H), 4.0 (d, 2 H), 4.02 (s, 3 H), 7.3 (s, 1 H), 7.8 (s, 1 H); mass spectrum (positive chemical ionisation (+ve CI)): 240 (M+H)+.

reactant | Isobutylchloroformate | 4.79 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 2-amino-3-methoxy-5-methylpyrazine | 5 g | NC1=NC=C(N=C1OC)C | C6H9N3O
reactant | pyridine | 2.91 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | isobutyl N-(3-methoxy-5-methylpyrazin-2-yl)carbamate | 6.5 g | COC=1C(=NC=C(N1)C)NC(OCC(C)C)=O | C11H17N3O3
